US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)imidazo[1,2-a]pyrimidine-2-carboxamide
The title compound was prepared using the method of Example 34(d) starting from Imidazo[1,2-a]pyrimidine-2-carboxylic acid (0.076 g, 0.466 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile (0.1 g, 0.359 mmol). The product was purified by recrystallization from acetonitrile. Yield 46.0%. 1H-NMR (400 MHz; CDCl3): δ 1.32 (d, 3H), 4.33 (dd, 1H), 4.44 (dd, 1H), 4.57-4.67 (m, 1H), 6.57 (dd, 1H), 6.97 (dd, 1H), 7.50 (d, 1H), 7.59 (dd, 1H), 7.71 (dd, 1H), 7.80 (d, 1H), 8.08 (s, 1H), 8.47 (dd, 1H), 8.66 (dd, 1H).

reactant | Imidazo[1,2-a]pyrimidine-2-carboxylic acid | 0.466 mmol, 0.076 g | N=1C(=CN2C1N=CC=C2)C(=O)O | C7H5N3O2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile | 0.359 mmol, 0.1 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)Cl)C | C13H12ClFN4
product | (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)imidazo[1,2-a]pyrimidine-2-carboxamide | Yield 46.0% | ClC=1C=C(C=C(C1C#N)F)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C2N(C=CC=N2)C1 | C20H15ClFN7O
